US04188390
Jones' reagent (11.6 ml.) was added dropwise to a stirred solution of 6-acetyl-2-hydroxymethyl-1,4-benzodioxan (4.0 g.) in acetone (70 ml.) at 10°-15° C. The reaction was stirred at room temperature for 18 hours then diluted with isopropanol/water/chloroform, the organic layer separated and evaporated in vacuo. The residue was redissolved in chloroform, extracted with saturated sodium carbonate solution (2×30 ml.) then the basic phase washed with chloroform, cooled and acidified to pH 1 with concentrated hydrochloric acid. The acidic solution was extracted with chloroform, the combined extracts washed with saturated brine, dried (Na2SO4) and evaporated in vacuo to give 6-acetyl-1,4-benzodioxan-2-carboxylic acid (1.56 g.), m.p. 159°-162° C. A sample was recrystallized from ethanol/ethyl acetate, m.p. 174°-175° C.

reactant | Jones' reagent | 11.6 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 6-acetyl-2-hydroxymethyl-1,4-benzodioxan | 4.0 g | C(C)(=O)C1=CC2=C(OC(CO2)CO)C=C1 | C11H12O4
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | isopropanol water chloroform | C(C)(C)O.O.C(Cl)(Cl)Cl
product | 6-acetyl-1,4-benzodioxan-2-carboxylic acid | 1.56 g | C(C)(=O)C1=CC2=C(OC(CO2)C(=O)O)C=C1 | C11H10O5
